US05739132
1.4 g of potassium carbonate dissolved in 20 ml of water was added to 1.15 g of 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane dissolved in 40 ml of ethyl acetate and 20 ml of tetrahydrofuran. Then, 0.57 g of methanesulfonyl chloride was added thereto and the mixture was stirred for 2 hours. After the organic layer was collected by separation and dried, the solvent was removed. The resulting crystals were recrystallized from tetrahydrofuran-isopropyl ether to obtain 1.08 g of 2-methylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane.

reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 1.15 g | NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C13H15N3O
reactant | methanesulfonyl chloride | 0.57 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-methylsulfonylamino-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 1.08 g | CS(=O)(=O)NC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C14H17N3O3S
